US04814332
2.05 g of 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride and 7.35 g of N,N-dimethylformamide diethyl acetal are stirred at 100° for 45 minutes in 150 ml of 1-propanol. The product is precipitated by the addition of ether. The precipitate is crystallized from dichloromethane/methanol and recrystallized from ethanol. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[2-(dimethylamino)vinyl]imidazolium chloride of melting point 246°-248°.

reactant | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride | 2.05 g | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C
reactant | N,N-dimethylformamide diethyl acetal | 7.35 g | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | 1-propanol | 150 ml | C(CC)O | C3H8O
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-[2-(dimethylamino)vinyl]imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C=CN(C)C)C=C1)C | InChI=1S/C25H32N7.ClH/c1-28(2)16-15-25-31(26-19-21-7-11-23(12-8-21)29(3)4)17-18-32(25)27-20-22-9-13-24(14-10-22)30(5)6;/h7-20H,1-6H3;1H/q+1;/p-1
